Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
No Allergies/ADRs on File
 
Attending: ___
 
___ Complaint:
EtOH intoxication
 
Major Surgical or Invasive Procedure:
___: Intubation 

 
History of Present Illness:
Ms. ___ is a ___ yo F with a sig PMHx of sickle cell disease
who presents with acute alcohol intoxication. A limited history
was obtained given her altered mental status. 

Briefly, the patient was at a party and consumed 8 servings of
hard alcohol. She was found to be altered and EMS was called.
When they arrived, she was vomiting in the bathroom and
unresponsive. She was arousable to sternal rub. She was brought
to ___ for further management. En route, she was de-satting to
88% and continuing to actively vomit. 

On arrival, the patient was intubated (MAC 3, 7.0 ETT) for 
airway
protection and transferred to the MICU.

In the ED: 
- Initial vitals were:  
T97.8 HR68 BP102/66 RR20 SPO2 100% intubated 

- Exam notable for:  
Patient was clearly intoxicated. She was actively vomiting and
was not clearing her secretions. Her head was needed to be held
up so she did aspirate

- Labs notable for:  
VBG: pH 7.33 pCO2 45 pO2 92 HCO3 25 
Lactate: 1.8
CBC: Hb 8.6 -> 9.7 WBC 4.1 
BMP: Na 140 BUN/Cr ___
LFTs: AST 41 ALT 9
serum etoh: 215
serum acetamin: pos
serum asa 0.30
serum bzd, barb, tca: neg

- Imaging was notable for: 
+CXR: pnd

- Patient was given:  
IV DRIP Fentanyl Citrate  
IV DRIP Midazolam 

Upon arrival to the ICU, patient is intubated and sedated.  
Review of systems was negative except as detailed above.

 
Past Medical History:
Sickle Cell Disease
 
Social History:
___
Family History:
Unable to obtain
 
Physical Exam:
ADMISSION EXAM:
VITALS: Reviewed in MetaVision.
GENERAL: intubated and sedated. 
HEENT: Small amount of bloody secretions coming from OG tube, NG
tube in place, NC/NT     
CARDIAC: RRR, no m/r/g
PULMONARY: CTA ___
ABDOMEN: Abdomen distended but not tense
EXTREMITIES: No clubbing, cyanosis or edema     
SKIN: Warm and dry
NEURO: Pupils (3-->2 mm) equal and reactive 

DISCHARGE EXAM:
VITALS: Reviewed in MetaVision.
GENERAL: Awake and conversant  
HEENT: Small amount of bloody secretions coming from OG tube, NG
tube in place, NC/NT     
CARDIAC: RRR, no m/r/g
PULMONARY: CTA ___
ABDOMEN: Non tender non distended abdomen 
EXTREMITIES: No clubbing, cyanosis or edema     
SKIN: Warm and dry
NEURO: Pupils (3-->2 mm) equal and reactive 
 
Pertinent Results:
PERTINENT RESULTS:

___ 03:05AM BLOOD WBC-6.0 RBC-2.43* Hgb-8.6* Hct-24.8* 
MCV-102* MCH-35.4* MCHC-34.7 RDW-16.3* RDWSD-59.4* Plt ___
___ 03:05AM BLOOD Glucose-147* UreaN-5* Creat-0.6 Na-139 
K-3.1* Cl-104 HCO3-23 AnGap-12
___ 03:05AM BLOOD ASA-0.30* ___ Acetmnp-POS* 
Bnzodzp-NEG Barbitr-NEG Tricycl-NEG

CXR:
"Interval placement of endotracheal tube ending 1.5 cm above the 
carina. 
1-2 cm retraction is recommended.
2. No evidence of consolidation, effusion, or pneumothorax."
 

 
Brief Hospital Course:
Key Information for Outpatient Providers:Ms. ___ is a ___ yo 
F with a history of sickle cell disease
who presents with acute alcohol intoxication.

#Acute Hypoxic Respiratory Failure: 
The patient presented after significant vomiting due to alcohol 
consumption. She initially desaturated en route, and given her 
altered mental status, she was intubated for airway protection. 
Her mental status improved and she was able to be extubated 
without issue.

#Toxic Metabolic Encephalopathy:
#ETOH Intoxication: 
The patient presented after significant alcohol consumption and 
intoxication that was likely accidental. On arrival, she
was obtunded and only arousal to sternal rub. Serum ETOH 215 was 
likely the source of her altered mentation. Of note, the patient 
had a positive toxicology screen for ASA and Acetaminophen as 
well. She was given IV fluids and he repeat Tylenol level was 
negative. 

#Sickle cell disease:
The patient's hemoglobin was 9.2 on admission and she had a low 
haptoglobin. Therefore, there was concern for a sickle crisis. 
Her repeat hemoglobin was stable so she was discharged home 
after getting IV fluids. 

TRANSITIONAL ISSUES: 
=================================
[ ] Please limit alcohol intake 
[ ] monitor CBC to ensure anemia resolving
 
Medications on Admission:
None
 
Discharge Medications:
None
 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Primary Diagnoses:
Acute Hypoxic Respiratory Failure
Toxic Metabolic Encephalopathy
Alcohol Intoxication

Secondary Diagnosis:
Sickle Cell disease 

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___,

WHY WAS I ADMITTED TO THE HOSPITAL?
You were admitted because you were intoxicated and we were 
worried about your safety. 

WHAT WAS DONE WHILE I WAS HERE?
We put a breathing tube down your airway and connected you to a 
breathing machine because we were worried about your breathing.  
We gave you fluids and monitored you until you were safe to 
breathe on your own and then we removed the tube. We monitored 
your lab work closely. 

WHAT SHOULD I DO NOW?
You should take your medications as instructed.
You should go to your doctors ___ as below.

We wish you the best!

-Your ___ Care Team 
 
Followup Instructions:
___